US04824835
N,N-Dimethyl-N'-(4,4-dimethyl-1,2,3,4-tetrahydro-1,3-dioxo-7-isoquinolinyl)-urea
1.3 g. (6.3 mMole) 7-amino-4,4-dimethylisoquinoline-1,3-dione was dissolved in 30 ml. pyridine, mixed, while cooling with ice, with 1.5 g. dimethylcarbamoyl chloride and the reaction mixture further stirred for 4 hours at 25° C. Subsequently, the reaction mixture was distilled to dryness, the residue was taken up in methylene chloride, washed with water, dried and the methylene chloride distilled off. The residue was recrystallised from ethanol. Yield 1.1 g. (63.6% of theory); m.p. 256°-258° C.

reactant | 7-amino-4,4-dimethylisoquinoline-1,3-dione | 6.3 mMole | NC1=CC=C2C(C(NC(C2=C1)=O)=O)(C)C | C11H12N2O2
reactant | dimethylcarbamoyl chloride | CN(C(=O)Cl)C | C3H6ClNO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N,N-Dimethyl-N'-(4,4-dimethyl-1,2,3,4-tetrahydro-1,3-dioxo-7-isoquinolinyl)-urea | CN(C(=O)NC1=CC=C2C(C(NC(C2=C1)=O)=O)(C)C)C | C14H17N3O3
